US04483858
Step C: Preparation of 2-(N-methylaminomethyl)-4,5-dihydro-1H-imidazole dihydrobromide
A solution of 4,5-dihydro-2-(N-benzyloxycarbonyl-N-methylaminomethyl)imidazole hydrochloride (2.0 g) in 2 ml glacial acetic acid was added dropwise to 10 ml of a 30% solution of HBr in acetic acid. After stirring 0.5 hour the reaction was diluted gradually with 15 ml of ether. The mixture was then stirred 24 hours at ambient temperature. The product separated as a white solid which was collected on a filter, washed with ether, and dried. The yield was 1.97 g, m.p. 181°-183° C.

reactant | 4,5-dihydro-2-(N-benzyloxycarbonyl-N-methylaminomethyl)imidazole hydrochloride | 2.0 g | Cl.C(C1=CC=CC=C1)OC(=O)N(C)CC=1NCCN1
reactant | HBr | Br | BrH
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | ether | 15 ml | CCOCC | C4H10O
product | 2-(N-methylaminomethyl)-4,5-dihydro-1H-imidazole dihydrobromide | Br.Br.CNCC=1NCCN1 | InChI=1S/C5H11N3.2BrH/c1-6-4-5-7-2-3-8-5;;/h6H,2-4H2,1H3,(H,7,8);2*1H
